US04977162
Methyl-5-(2-hydroxy-4-methylphenyl)-3,5-dioxopentanoate is dissolved in a saturated solution of hydrogen chloride in methanol and allowed to stand for 2 hours. The solution is evaporated and the crude product purified by flash chromatography on silica gel to give methyl 2-(7-methyl-4-oxo-4H-1-benzopyran-2-yl)acetate.

reactant | Methyl-5-(2-hydroxy-4-methylphenyl)-3,5-dioxopentanoate | COC(CC(CC(=O)C1=C(C=C(C=C1)C)O)=O)=O | C13H14O5
solvent | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | methyl 2-(7-methyl-4-oxo-4H-1-benzopyran-2-yl)acetate | CC1=CC2=C(C(C=C(O2)CC(=O)OC)=O)C=C1 | C13H12O4
